US04769369
Trans-6-[2-(4-methoxyphenyl)ethenyl]-2-(3-piperidinopropyl)phthalazin-1(2H)-one hydrobromide
6-Bromo-2-(3-piperidinopropyl)phthalazin-1(2H)-one (7.2 gm, 0.018 mole) (prepared as in Example I, except that 1-(3-chloropropyl)piperidine hydrochloride was substituted for the 2-(diisopropylamino)ethyl chloride hydrochloride) was stirred into 10 ml DMSO plus 10 ml acetonitrile. To the resulting mixture was added 2.8 gm 4-methoxystyrene (0.021 mole), 0.1 gm tri(o-tolyl)phosphine, and 0.02 gm palladium acetate. The reaction mixture was stirred at reflux (95°-100° C.) for 24 hours. Allowed to cool to about 60° C. and diluted with 40 ml of isopropanol. Stirred for an hour, filtered, washed to colorless washings with isopropanol and dried. The product weighed 8.6 gm. After recrystallization from 50 ml methoxyethanol the product weighed 6.4 gm and melted at 248°-250° C.

reactant | 6-Bromo-2-(3-piperidinopropyl)phthalazin-1(2H)-one | 0.018 mole, 7.2 gm | BrC=1C=C2C=NN(C(C2=CC1)=O)CCCN1CCCCC1 | C16H20BrN3O
reactant | 1-(3-chloropropyl)piperidine hydrochloride | Cl.ClCCCN1CCCCC1
reactant | 2-(diisopropylamino)ethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C(C)C
reactant | 4-methoxystyrene | 0.021 mole, 2.8 gm | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | tri(o-tolyl)phosphine | 0.1 gm | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
catalyst | palladium acetate | 0.02 gm | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | Trans-6-[2-(4-methoxyphenyl)ethenyl]-2-(3-piperidinopropyl)phthalazin-1(2H)-one hydrobromide | Br.COC1=CC=C(C=C1)/C=C/C=1C=C2C=NN(C(C2=CC1)=O)CCCN1CCCCC1 | InChI=1S/C25H29N3O2.BrH/c1-30-23-11-8-20(9-12-23)6-7-21-10-13-24-22(18-21)19-26-28(25(24)29)17-5-16-27-14-3-2-4-15-27;/h6-13,18-19H,2-5,14-17H2,1H3;1H/b7-6+;
